US05593993
A) Preparation of 2-Hydroxymethyl-3-methoxy pyridine
Potassium hydroxide (41.66 g ,0.744 mol) was ground under nitrogen and stirred in DMSO (130 ml, anhydrous) for 20 min. 3-Hydroxy-2-hydroxymethyl pyridine hydrochloride [Aldrich] (47 g, 0.248 mol) was added and stirred for 30 rain in an ice bath. Methyl iodide (35.2 g, 0.248 mol, 15.43 ml) in DMSO (20 ml) was added dropwise to the solution and then allowed to stir overnight at room temperature. 5N HCl was added to pH 1 and the solution was extracted with dichloromethane (5×500 ml). The aqueous was then basified with 5N NaOH to pH 14 and extracted with dichloromethane (3×500 ml). The organics (base wash) were dried over sodium sulfate, and concentrated leaving tan colored crystals. The solid was recrystallized (50% ethyl acetate/hexanes) providing 10.8 g (32%) of the titled product as light tan crystals:

reactant | Potassium hydroxide | 0.744 mol, 41.66 g | [OH-].[K+]
reactant | 3-Hydroxy-2-hydroxymethyl pyridine hydrochloride | 0.248 mol, 47 g | Cl.OC=1C(=NC=CC1)CO
reactant | Methyl iodide | 0.248 mol, 15.43 ml, 35.2 g | CI | CH3I
reactant | HCl | 5N | Cl | ClH
solvent | DMSO | 130 ml | CS(=O)C | C2H6OS
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 2-Hydroxymethyl-3-methoxy pyridine | 10.8 g, 32% | OCC1=NC=CC=C1OC | C7H9NO2
